US08710178B2
(S)-2-Benzyloxycarbonylamino-4-methylsulfanyl-butyric acid methyl ester (59)
L-methionine (3.70 g, 18.5 mmol) was dissolved in a biphasic mixture of EtOAc (75 mL) and water (75 mL). This was cooled in ice and sodium hydrogen bicarbonate (7.78 g, 5 equiv) and benzyl chloroformate (2.98 mL, 1.1 equiv) were added. This was stirred in ice for one h and then at rt for a further eighteen h before the mixture was allowed to partition. The organic phase was washed sequentially with 1M hydrochloric acid, saturated aqueous sodium hydrogen bicarbonate and brine before being dried (MgSO4), filtered and concentrated in vacuo to afford a yellow oil, 5.40 g, 98%.

reactant | L-methionine | 18.5 mmol, 3.70 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | sodium hydrogen bicarbonate | 7.78 g, 5 equiv | C(O)(O)=O.[Na]
reactant | benzyl chloroformate | 2.98 mL, 1.1 equiv | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | water | 75 mL | O | H2O
product | (S)-2-Benzyloxycarbonylamino-4-methylsulfanyl-butyric acid methyl ester | COC([C@H](CCSC)NC(=O)OCC1=CC=CC=C1)=O | C14H19NO4S
